US04816461
3-Methyl-7-fluoro-5-hydrazinobenzothiophene hydrochloride
0.1 mole of 3-methyl-7-fluoro-5-aminobenzothiophene hydrochloride is suspended in 100 ml of water and 100 ml of concentrated hydrochloric acid, and a solution of 0.11 mole of sodium nitrite in 50 ml of water is added dropwise at between -5° C. and 0° C. The diazonium salt solution is added dropwise to a mixture, cooled to 0° C., of 0.21 mole of SnCl2.2H2O and 200 ml of concentrated hydrochloric acid. After the mixture has been warmed to room temperature, 60 ml of isopropanol are added and the crystal mass is filtered off with suction and recrystallised from isopropanol.

reactant | 3-methyl-7-fluoro-5-aminobenzothiophene hydrochloride | 0.1 mole | Cl.CC1=CSC2=C1C=C(C=C2F)N
reactant | sodium nitrite | 0.11 mole | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 0.21 mole | O.O.Cl[Sn]Cl
reactant | isopropanol | 60 ml | C(C)(C)O | C3H8O
solvent | water | 100 ml | O | H2O
solvent | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 3-Methyl-7-fluoro-5-hydrazinobenzothiophene hydrochloride | Cl.CC1=CSC2=C1C=C(C=C2F)NN | InChI=1S/C9H9FN2S.ClH/c1-5-4-13-9-7(5)2-6(12-11)3-8(9)10;/h2-4,12H,11H2,1H3;1H
